US05705499
2-chloro-5,11-dihydro-11-ethyl-5-methyl-8-(purin-6-ylthio)methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
Using a procedure analogous to that described in Example 98, the title compound, m.p. 148°-151° C., was prepared from 2-chloro-8-chloromethyl-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one and 6-mercaptopurine. The yield was 67% of theory.

reactant | 2-chloro-8-chloromethyl-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCl)=O)C | C15H14Cl2N4O
reactant | 6-mercaptopurine | SC1=C2NC=NC2=NC=N1 | C5H4N4S
product | 2-chloro-5,11-dihydro-11-ethyl-5-methyl-8-(purin-6-ylthio)methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | yield was 67% | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CSC3=C1NC=NC1=NC=N3)=O)C | C20H17ClN8OS
